US04110454
By substituting 4-hydrazino-1-furfurylpyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester for the 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid,ethyl ester in Example 1 (a), 8-furfuryl-4H-pyrazolo[4',3'-5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidin-5(8H)-one is obtained. This compound is now processed as in Example 1 (b) and then as in Example 4, substituting phenol for the ethanol to obtain 8-furfuryl- 5-phenyloxy-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine.

reactant | 4-hydrazino-1-furfurylpyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | N(N)C1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC2=CC=CO2 | C14H15N5O3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | ethanol | C(C)O | C2H6O
product | 8-furfuryl- 5-phenyloxy-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine | C(C1=CC=CO1)N1N=CC2=C1N=CC=1C(=NC=3N(C12)N=CN3)OC3=CC=CC=C3 | C20H13N7O2
